resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.983115
R2 0 n2 1.009887
R3 0 n4 0.99851
R4 n1 n3 0.081957
R5 n1 n5 1.01796
R6 n2 n3 0.983116
R7 n2 n6 0.99928
R8 n3 n7 0.982679
R9 n4 n5 1.013317
R10 n4 n6 0.999034
R11 n5 n7 0.991317
R12 n6 n7 1.001018
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
